US04604390
N,N-Diethyl-5-nitro-9-phenylmethoxy-2H[1]benzothiopyrano[4,3,2-cd]indazole-2-ethanamine
A mixture of 1.2 g (0.0091 mol) of 2-(diethylaminoethyl)hydrazine, 2.7 g (0.0069 mol) of 1-chloro-4-nitro-7-phenylmethoxy-9H-thioxanthen-9-one, and 0.97 g (0.0069 mol) of powdered K2CO3 in 30 ml of xylene was reacted and 2.0 g of the product was isolated as described in Example 58.

reactant | 2-(diethylaminoethyl)hydrazine | 0.0091 mol, 1.2 g | C(C)N(CC)CCNN | C6H17N3
reactant | 1-chloro-4-nitro-7-phenylmethoxy-9H-thioxanthen-9-one | 0.0069 mol, 2.7 g | ClC1=CC=C(C=2SC3=CC=C(C=C3C(C12)=O)OCC1=CC=CC=C1)[N+](=O)[O-] | C20H12ClNO4S
reactant | K2CO3 | 0.0069 mol, 0.97 g | C(=O)([O-])[O-].[K+].[K+]
solvent | xylene | 30 ml | C=1(C(=CC=CC1)C)C | C8H10
product | N,N-Diethyl-5-nitro-9-phenylmethoxy-2H[1]benzothiopyrano[4,3,2-cd]indazole-2-ethanamine | 2.0 g | C(C)N(CCN1N=C2C=3C(=C(C=CC13)[N+](=O)[O-])SC1=C2C=C(C=C1)OCC1=CC=CC=C1)CC | C26H26N4O3S
